### PR TITLE
feat(ModularForms): add core Ramanujan identities for Eisenstein series

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

Establishes the core Ramanujan identities for Eisenstein series derivatives (Blueprint Theorem 6.50).

### Main Results

**Serre derivative forms:**
- `ramanujan_E₂'`: `serre_D 1 E₂ = -E₄/12`
- `ramanujan_E₄'`: `serre_D 4 E₄ = -E₆/3`
- `ramanujan_E₆'`: `serre_D 6 E₆ = -E₄²/2`

**D-derivative forms:**
- `ramanujan_E₂`: `D E₂ = (E₂² - E₄)/12`
- `ramanujan_E₄`: `D E₄ = (E₂·E₄ - E₆)/3`
- `ramanujan_E₆`: `D E₆ = (E₂·E₆ - E₄²)/2`

### Key Lemmas

- `scalar_eq_of_tendsto`: If `f = c * g` pointwise, `f → L` at i∞, and `g → 1` at i∞, then `c = L`.
- `exists_smul_eq_of_rank_one`: In a rank-one module, every element is a scalar multiple of any nonzero element.
- `smul_modularForm_eq_pointwise`: Convert smul equality of modular forms to pointwise equality.

### Proof Strategy

Uses dimension formulas: dim M_k(Γ(1)) = 1 for k = 4, 6, 8.
Since serre_D k E_k is a modular form in the 1-dimensional space, it must be a scalar multiple of the unique generator. The scalar is determined by comparing limits as z → i∞.

### File Changes

**New files:**
- `CoreRamanujan.lean`: Full Ramanujan identity proofs with helper lemmas
- `EisensteinAsymptotics.lean`: Asymptotic behavior of Eisenstein series and Serre derivatives
- `SerreDerivativeSlash.lean`: Proves `serre_DE₂_slash_invariant` (serre_D 1 E₂ is weight-4 slash-invariant)

**Modified files:**
- `Derivative.lean`: Added `D_isBoundedAtImInfty_of_bounded`, `serre_D_isBoundedAtImInfty_of_bounded`; removed ramanujan stubs; renamed `serre_D_isBoundedAtImInfty` → `serre_D_isBoundedAtImInfty_of_bounded` for consistency
- `Eisenstein.lean`: Added `E₄_isBoundedAtImInfty`, `E₂_mul_E₄_isBoundedAtImInfty`
- `FG.lean`: Added CoreRamanujan import

### Dependencies

- ~~**#266** (serre-derivative-asymptotics)~~ ✅ merged

### Follow-up
- #309 adds reusable helpers and refactors this code (merge after this PR).

### Merge Order

1. ~~**#265**: cauchy-boundedness~~ ✅ merged
2. ~~**#266**: serre-derivative-asymptotics~~ ✅ merged
3. **#267**: core-ramanujan ← (this PR)
4. **#268**: q-expansion-identities
5. **#248**: q-expansion-Eisenstein (MLDE)

### CODE REVIEW

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean [hunk 1]
```diff
@@ -185,6 +192,27 @@ lemma E₆_isBoundedAtImInfty : IsBoundedAtImInfty E₆.toFun :=
...
+/-- D E₄ is bounded at infinity.
+
+The q-expansion D(E₄) = 240·Σn·σ₃(n)·qⁿ has no constant term, so D(E₄) → 0 as im(z) → ∞.
+
+**Blocker**: Filled in #268 using `D_E4_qexp`. -/
+lemma D_E₄_isBoundedAtImInfty : IsBoundedAtImInfty (D E₄.toFun) := by
+  sorry
+
+/-- serre_D 4 E₄ is bounded at infinity. -/
+lemma serre_D_E₄_isBoundedAtImInfty : IsBoundedAtImInfty (serre_D 4 E₄.toFun) := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/EisensteinAsymptotics.lean]: Can't we use `serre_D_isBoundedAtImInfty` for the proof of this lemma?

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean [hunk 2]
```diff
@@ -185,6 +192,27 @@ lemma E₆_isBoundedAtImInfty : IsBoundedAtImInfty E₆.toFun :=
 lemma serre_D_E₂_isBoundedAtImInfty : IsBoundedAtImInfty (serre_D 1 E₂) :=
   serre_D_isBoundedAtImInfty 1 E₂_holo' E₂_isBoundedAtImInfty
 
+/-- D E₄ is bounded at infinity.
+
+The q-expansion D(E₄) = 240·Σn·σ₃(n)·qⁿ has no constant term, so D(E₄) → 0 as im(z) → ∞.
+
+**Blocker**: Filled in #268 using `D_E4_qexp`. -/
+lemma D_E₄_isBoundedAtImInfty : IsBoundedAtImInfty (D E₄.toFun) := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/EisensteinAsymptotics.lean]: I'm not 100% sure, but we have [UpperHalfPlane.IsZeroAtImInfty.isBoundedAtImInfty](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Complex/UpperHalfPlane/FunctionsBoundedAtInfty.html#UpperHalfPlane.IsZeroAtImInfty.isBoundedAtImInfty), and `D_tendsto_zero_of_tendsto_const` proved in a previous PR, then we can also prove this? Maybe more general statement would be possible:
```lean
lemma D_isBoundedAtImInfty {f : ℍ → ℂ} (hf : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) f)
    (hbdd : IsBoundedAtImInfty f) : IsBoundedAtImInfty (D f) := by sorry

lemma serre_D_isBoundedAtImInfty {f : ℍ → ℂ} {k : ℂ} (hf : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) f)
    (hbdd : IsBoundedAtImInfty f) : IsBoundedAtImInfty (serre_D k f) := by sorry
```

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean (hunk 1 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/EisensteinAsymptotics.lean]: Yes, good point, thanks -- see 022223f58ae38af99be24f2c45c520d3e844ab28
`serre_DE₄_isBoundedAtImInfty` now matches the DE₂ and DE₆ proofs (also I removed the underscore like elsewhere in the repo -- please let me know if you prefer something else).

File: SpherePacking/ModularForms/EisensteinAsymptotics.lean (hunk 2 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/EisensteinAsymptotics.lean]: We have `D_isBoundedAtImInfty_of_bounded` in `Derivative.lean`, which now fills `DE₄_isBoundedAtImInfty` in 022223f58ae38af99be24f2c45c520d3e844ab28 rather than waiting for #268. 

For consistency, should we rename `D_isBoundedAtImInfty_of_bounded` to your suggested `D_isBoundedAtImInfty`?
(`serre_D_isBoundedAtImInfty` is already in `Derivative.lean` from #265)

Comment (seewoo5) [reply SpherePacking/ModularForms/EisensteinAsymptotics.lean]: Actually changing `serre_D_isBoundedAtImInfty` to `serre_D_isBoundedAtImInfty_of_bounded` looks more mathlib-standard?

Comment (cameronfreer) [reply SpherePacking/ModularForms/EisensteinAsymptotics.lean]: Makes sense -- should we do that here or in a new PR?

Comment (seewoo5) [reply SpherePacking/ModularForms/EisensteinAsymptotics.lean]: You can do here - that would be enough for this PR.

Comment (cameronfreer) [reply SpherePacking/ModularForms/EisensteinAsymptotics.lean]: sounds good; see eef39a09ab593e42ab849c368dba57ef88917a81
